US07842685B2
Synthesis of 2-(1H-indol-5-yl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine
To N-(2-mercapto-6-(1-phenylcyclopropyl)pyridin-3-yl)-1H-indole-5-carboxamide (360 mg, 0.934 mmol) was added toluene (9.3 mL) and camphor sulfonic acid (195 mg, 0.841 mmol) before it was heated to 100° C. for 16 h. The reaction mixture was diluted with 100 mL of DCM, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 1 time with 50 mL of sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give the title compound after after flash chromatography. MS (ESI) m/z: Calculated: 367.1; Observed: 368.1 (M++H).

reactant | N-(2-mercapto-6-(1-phenylcyclopropyl)pyridin-3-yl)-1H-indole-5-carboxamide | 0.934 mmol, 360 mg | SC1=NC(=CC=C1NC(=O)C=1C=C2C=CNC2=CC1)C1(CC1)C1=CC=CC=C1 | C23H19N3OS
reactant | toluene | 9.3 mL | C1(=CC=CC=C1)C | C7H8
reactant | camphor sulfonic acid | 0.841 mmol, 195 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(1H-indol-5-yl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | N1C=CC2=CC(=CC=C12)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H17N3S
